US08017611B2
2-methoxyethyl chloroformate (0.035 ml) at 25° C. was added over a period of 5 minutes under argon to a stirred mixture of 3-oxazolo[4,5-b]pyridin-2-yl-5-[1-(4-piperidyl)pyrazol-4-yl]pyridin-2-amine (90 mg) and pyridine (5 ml). The resulting suspension was stirred at 25° C. for 2 hours. The solvent was evaporated. A solution of ammonia in methanol 7N (1 ml) was added and the mixture was adsorbed on silica gel. The crude product was purified by flash chromatography on silica gel eluting with 1 to 5% methanolic ammonia (7 N) in dichloromethane. The solvent was evaporated to dryness to afford 2-methoxyethyl 4-[4-(6-amino-5-oxazolo[4,5-b]pyridin-2-yl-3-pyridyl)pyrazol-1-yl]piperidine-1-carboxylate (75 mg) as a solid. NMR Spectrum: (CDCl3): 1.95-2.07 (m, 2H), 2.17-2.26 (m, 2H), 3.01 (bs, 2H), 3.40 (s, 3H), 3.63 (t, 2H), 4.28 (bs, 2H), 4.29-4.44 (m, 3H), 7.02 (bs, 2H), 7.35 (dd, 1H), 7.69 (s, 1H), 7.79 (s, 1H), 7.90 (dd, 1H), 8.41 (d, 1H), 8.42 (d, 1H), 8.59 (dd, 1H); Mass spectrum: M+H+ 464.

reactant | 2-methoxyethyl chloroformate | 0.035 ml | ClC(=O)OCCOC | C4H7ClO3
reactant | 3-oxazolo[4,5-b]pyridin-2-yl-5-[1-(4-piperidyl)pyrazol-4-yl]pyridin-2-amine | 90 mg | O1C(=NC2=NC=CC=C21)C=2C(=NC=C(C2)C=2C=NN(C2)C2CCNCC2)N | C19H19N7O
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
product | 2-methoxyethyl 4-[4-(6-amino-5-oxazolo[4,5-b]pyridin-2-yl-3-pyridyl)pyrazol-1-yl]piperidine-1-carboxylate | 75 mg | NC1=C(C=C(C=N1)C=1C=NN(C1)C1CCN(CC1)C(=O)OCCOC)C=1OC=2C(=NC=CC2)N1 | C23H25N7O4
